US07129232B2
To a solution of benzhydryl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate (60 g) in toluene (600 ml) were added a solution of sodiumiodide (61.8 g) in 0.05 mol phosphate buffer (pH 7, 500 ml) and tricaprylylmethylammonium chloride (6.67 g). The mixture was stirred at room temperature for 15 hours. The reaction mixture was added to a mixture of ethyl acetate and water. The organic layer was washed with water and brine, and then dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated to 255 g under reduced pressure. The concentrate was poured into diisopropyl ether (2 L). The resulting precipitate was collected by filtration and dried to give benzhydryl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-iodomethyl-3-cephem-4-carboxylate (59.4 g).

reactant | benzhydryl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 60 g | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C33H35ClN6O7S2
reactant | sodiumiodide | 61.8 g | [I-].[Na+]
reactant | phosphate | 0.05 mol, 500 ml, pH 7 | P(=O)([O-])([O-])[O-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | tricaprylylmethylammonium chloride | 6.67 g | [Cl-].C(CCCCCCC)(=O)C(C(CCCCCCC)=O)(C(CCCCCCC)=O)[NH3+]
solvent | water | O | H2O
product | benzhydryl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-iodomethyl-3-cephem-4-carboxylate | 59.4 g | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C33H35IN6O7S2
